US08084614B2
Steps 45B: Methyl-{2-[2-(1H-tetrazol-5-yl)-ethoxy]-phenyl}-amine
To a solution of 3-(2-methylamino-phenoxy)-propionitrile (1.55 g, 8.8 mmol) and azidotributyltin (3.6 mL, 13.2 mmol) in toluene (30 mL) was added triethylaluminum (9.3 mL, 17.6 mmol, 1.9 M in toluene). The mixture was heated at 80° C. for 16 hrs. The mixture was diluted with water (100 mL) and ethyl acetate (200 mL). The ethyl acetate layer was separated and removed. The resulting methyl-{2-[2-(1H-tetrazol-5-yl)-ethoxy]-phenyl}-amine stayed in the aqueous solution and was used in the next step without purification. [M+H]+ 220.1; tR=0.388 min (method 1).

reactant | 3-(2-methylamino-phenoxy)-propionitrile | 8.8 mmol, 1.55 g | CNC1=C(OCCC#N)C=CC=C1 | C10H12N2O
reactant | azidotributyltin | 13.2 mmol, 3.6 mL | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
reactant | triethylaluminum | 17.6 mmol, 1.9 M, 9.3 mL | C(C)[Al](CC)CC
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | Methyl-{2-[2-(1H-tetrazol-5-yl)-ethoxy]-phenyl}-amine | CNC1=C(C=CC=C1)OCCC1=NN=NN1 | C10H13N5O
